US07994164B2
(2S,4S)-[4-(4-Bromo-2-nitro-phenylamino)-pyrrolidin-2-yl]-methanol, hydrochloride
Add 4.0 M hydrogen chloride in dioxane (950 mL) slowly to a solution of (2S,4S)-4-(4-bromo-2-nitro-phenylamino)-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.22 mol, 95 g) in dry dichloromethane (475 mL) at room temperature and stir for 2 h. Filter the precipitated solid and dry under vacuum to obtain the title compound (70 g, 87%) as an orange solid. 1H NMR (400 MHz, CD3OD) δ 1.98-2.05 (m, 1H), 2.71-2.79 (m, 1H), 3.36 (dd, 1H), 3.58-3.63 (m, 1H), 3.76 (dd, 1H), 3.88-3.95 (m, 2H), 4.55-4.58 (m, 1H), 7.03 (d, 1H), 7.66 (dd, 1H), 8.30 (d, 1H).

reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | (2S,4S)-4-(4-bromo-2-nitro-phenylamino)-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.22 mol, 95 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)NC1=C(C=C(C=C1)Br)[N+](=O)[O-])CO | C16H22BrN3O5
solvent | dioxane | 950 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 475 mL | ClCCl | CH2Cl2
product | (2S,4S)-[4-(4-Bromo-2-nitro-phenylamino)-pyrrolidin-2-yl]-methanol, hydrochloride | 70 g, 87% | Cl.BrC1=CC(=C(C=C1)N[C@H]1C[C@H](NC1)CO)[N+](=O)[O-] | InChI=1S/C11H14BrN3O3.ClH/c12-7-1-2-10(11(3-7)15(17)18)14-8-4-9(6-16)13-5-8;/h1-3,8-9,13-14,16H,4-6H2;1H/t8-,9-;/m0./s1
